US04476307
1-(3-Fluoro-4-methoxyphenyl)indole
Indole (60 g, 0.51 mole), o-fluoro-p-bromoanisole (112.2 g, 0.547 mole), K2CO3 (76 g, 0.55 mole) and Cu2Br2 (14 g) were combined in 600 ml N-methylpyrrolidone and heated at 185°-200° for 48 hours, stirring under N2. The reaction mixture was cooled, poured into ice and water and extracted several times with ethyl acetate. The combined organic layers were washed with H2O, then brine, dried over MgSO4, treated with activated carbon, and concentrated to an oil (148 g). A portion of the oil (25 g) was chromatographed on silica gel (7.5×18 cm) eluting with 1:9 CH2Cl2 : hexane, yielding title product as an oil which crystallized on standing in vacuo overnight, 7.2 g, m.p. 65°-67°.

reactant | Indole | 0.51 mole, 60 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | o-fluoro-p-bromoanisole | 0.547 mole, 112.2 g | FC1=C(C=CC(=C1)Br)OC | C7H6BrFO
reactant | K2CO3 | 0.55 mole, 76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 600 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(3-Fluoro-4-methoxyphenyl)indole | FC=1C=C(C=CC1OC)N1C=CC2=CC=CC=C12 | C15H12FNO
